US08445538B2
Step B. N-[4-((1S)-1-{(4-chlorophenyl)[6-(difluoromethoxy)-2-naphthyl]methyl}butyl)benzoyl]-β-alanine
Chlorodifluroacetophenone (294 mg, 1.54 mmol) was added to a mixture of ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(6-hydroxy-2-naphthyl)methyl]butyl}benzoyl)-β-alaninate (140 mg, 0.257 mmol), KOH (303 mg, 5.40 mmol), and acetonitrile (3.0 mL) at −78° C., then the resulting mixture was warmed to 80° C. and stirred for 3 hours. The mixture was cooled to RT, quenched with 2.0 N HCl (aq), then diluted with EtOAc. The organic layer was washed twice with water then concentrated. The residue was purified by preparative reverse phase HPLC, eluting with water/MeCN+0.1% TFA to afford the title compound. 1H NMR (500 MHz, CD3OD): δ 7.68 (d, J=9.0 Hz, 1H), 7.64 (s, 1H), 7.58-7.49 (m, 5H), 7.42 (d, J=8.7 Hz, 1H), 7.37-7.29 (m, 5H), 7.16-7.12 (m, 1H), 6.82 (t, J 7.4 Hz, 1H), 4.39 (d, J=11.8 Hz, 1H), 3.76-3.67 (m, 1H), 3.53-3.47 (m, 2H), 2.56-2.50 (m, 2H), 1.59 (d, J=8.9 Hz, 2H), 1.07 (d, J=10.2 Hz, 2H), 0.79 (t, J=7.2 Hz, 3H); LC2 2.49 min. [M+H]+ 566.

reactant | Chlorodifluroacetophenone | 1.54 mmol, 294 mg | ClC(C(=O)C1=CC=CC=C1)(F)F | C8H5ClF2O
reactant | ethyl N-(4-{(1S)-1-[(4-chlorophenyl)(6-hydroxy-2-naphthyl)methyl]butyl}benzoyl)-β-alaninate | 0.257 mmol, 140 mg | ClC1=CC=C(C=C1)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)OCC)C=C1)C1=CC2=CC=C(C=C2C=C1)O | C33H34ClNO4
reactant | KOH | 5.40 mmol, 303 mg | [OH-].[K+]
solvent | acetonitrile | 3.0 mL | C(C)#N | C2H3N
product | N-[4-((1S)-1-{(4-chlorophenyl)[6-(difluoromethoxy)-2-naphthyl]methyl}butyl)benzoyl]-β-alanine | ClC1=CC=C(C=C1)C([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC2=CC=C(C=C2C=C1)OC(F)F | C32H30ClF2NO4
